US08835420B2
2,4-Diamino-6-(((1S)-1-(6-(3,5-dimethylisoxazol-4-yl)-1-methyl-1H-pyrrolo[3,2-b]pyridin-5-yl)ethyl)amino)pyrimidine-5-carbonitrile
(1S)-1-(6-(3,5-Dimethylisoxazol-4-yl)-1-methyl-1H-pyrrolo[3,2-b]pyridin-5-yl)ethanamine (106 mg, 0.393 mmol), 2,4-diamino-6-chloropyrimidine-5-carbonitrile (100 mg, 0.590 mmol), and N-ethyl-N-isopropylpropan-2-amine (0.205 mL, 1.179 mmol) were combined in acetonitrile (6 mL). The reaction mixture was heated in a microwave reactor at 120° C. for 2 hours and then concentrated. The residue was taken up in DMF and purified by preparative HPLC (basic mode) eluting with 35% ACN in water. The fractions containing the desired product were combined and concentrated in vacuo to give the title compound (89 mg, 56%). 1H NMR (500 MHz, CD3OD) δ ppm 1.36 (ddd, J=13.42, 6.59, 1.46 Hz, 3 H), 2.01 (d, J=1.46 Hz, 2 H), 2.15 (d, J=1.95 Hz, 1 H), 2.18-2.21 (m, 1 H), 2.32 (d, J=1.46 Hz, 2 H), 3.86 (d, J=1.46 Hz, 3 H), 5.38-5.49 (m, 1 H), 6.67 (dd, J=2.20, 1.22 Hz, 1H), 7.58 (dd, J=2.93, 1.46 Hz, 1 H), 7.69 (d, J=5.86 Hz, 1 H); ESI-MS m/z [M+H]+ calc'd for C20H21N9O, 404; found 404.

reactant | (1S)-1-(6-(3,5-Dimethylisoxazol-4-yl)-1-methyl-1H-pyrrolo[3,2-b]pyridin-5-yl)ethanamine | 0.393 mmol, 106 mg | CC1=NOC(=C1C=1C=C2C(=NC1[C@H](C)N)C=CN2C)C | C15H18N4O
reactant | 2,4-diamino-6-chloropyrimidine-5-carbonitrile | 0.590 mmol, 100 mg | NC1=NC(=C(C(=N1)N)C#N)Cl | C5H4ClN5
reactant | N-ethyl-N-isopropylpropan-2-amine | 1.179 mmol, 0.205 mL | C(C)N(C(C)C)C(C)C | C8H19N
solvent | acetonitrile | 6 mL | C(C)#N | C2H3N
product | 2,4-Diamino-6-(((1S)-1-(6-(3,5-dimethylisoxazol-4-yl)-1-methyl-1H-pyrrolo[3,2-b]pyridin-5-yl)ethyl)amino)pyrimidine-5-carbonitrile | 89 mg, 56% | NC1=NC(=C(C(=N1)N)C#N)N[C@@H](C)C1=C(C=C2C(=N1)C=CN2C)C=2C(=NOC2C)C | C20H21N9O
